US07166617B2
a) Ethyl 2-(indolin-1-yl)acetate
Indoline (1.07 g, 8.98 mmol), ethyl bromoacetate (1.20 ml, 10.8 mmol), potassium carbonate (2.10 g, 15.2 mmol) were added to dimethylformamide (14 ml), and the mixture was heated at 80° C. for 30 minutes. The reaction mixture was cooled to room temperature and diluted with ethyl acetate, and then washed with water and dried over sodium sulfate. Insoluble solids were removed by filtration and the filtrate was evaporated under reduced pressure. The resulting oil was purified by silica gel column chromatography (ethyl acetate-hexane) to obtain the title compound as yellow oil (1.35 g, yield: 73%).

reactant | Indoline | 8.98 mmol, 1.07 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | ethyl bromoacetate | 10.8 mmol, 1.20 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 15.2 mmol, 2.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(indolin-1-yl)acetate | 1.35 g, yield: 73% | N1(CCC2=CC=CC=C12)CC(=O)OCC | C12H15NO2
